US07858640B2
[8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of trifluoromethanesulfonic acid 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yl ester (0.20 g), tert-butyl-(1-methoxyvinyloxy)dimethyl silane (0.40 g), sodium acetate (0.044 g), tris(dibenzylideneacetone) dipalladium (0.020 g) and 1,1′-bis(diphenylphospino) ferrocene (0)(0.012 g) in N,N-dimethylformamide (5.0 mL) was heated by microwave irradiation at 120° C. for 15 minutes. The mixture was purified by column chromatography on silica gel, eluting with a mixture of pentane and dichloromethane (9:1 to 0:1 by volume) to afford title compound as a yellow oil, 0.034 g.

reactant | trifluoromethanesulfonic acid 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yl ester | 0.20 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)OC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C18H12Cl2F3NO4S
reactant | tert-butyl-(1-methoxyvinyloxy)dimethyl silane | 0.40 g | C(C)(C)(C)[Si](C)(C)OC(=C)OC | C9H20O2Si
reactant | sodium acetate | 0.044 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone) dipalladium | 0.020 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphospino) ferrocene | 0.012 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)OC1=CC=C(C=C1)Cl)C)=O | C20H17Cl2NO4
